Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Aspirin
 
Attending: ___
 
Chief Complaint:
Right breast pain 
 
Major Surgical or Invasive Procedure:
T11 vertebroplasty

 
History of Present Illness:
___ year old man with history of multiple myeloma,  
hypertension and diabetes who presents ___ to clinic with a 
chief complaint of right breast pain. The pt was recently 
admitted to ___ after a fall, was discharged on ___. Pt 
developed right-sided back pain two days ago, and developed rash 
on right back and breast yesterday (___). ___ 
reports that the pt has had diminished oral intake over the past 
few days and the pt endorses decreased appetite.  
.  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, constipation, BRBPR, melena, hematochezia, dysuria, 
hematuria.  

 
Past Medical History:
1. Multiple myeloma: Diagnosed ___. Initial presentation 
sinus congestion --> found to have rapidly growing mass in left 
paranasal sinus --> ENT endoscopic biopsy ___ --> 
plasmocytoma --> BMBx ___ --> myeloma. No lytic lesions on 
skeletal survey. Chemotherapy with Velcade and dexamethasone 
started ___.  
2. Type 2 DM: Last A1c 8.0% ___. In setting of starting 
steroids, recent ___ in the 300-400s. Has been on metformin and 
glyburide, PCP would like to start insulin this week.  
3. Hypertension: Reports BP's at home have been "normal" per 
machine he uses. Recent BPs at PCP 120s/70s. BP in ED 159/75  
4. Hypercholesterolemia: On Atorvastatin. Last cholesterol 147 
___  
5. Essential tremor  
6. Hypothyroidism: History of Grave's disease. Was rx'd with 
radioactive iodine. Currently hypothyroid on ___ mcg levoxyl qd. 
 
7. Hyperparathyroidism: Borderline hypercalcemia. Increased 
parathyroid uptake c/w adenoma seen on parathyroid scan in 
___.  
8. Lactose intolerance: Drinks milk but ? whether has caused 
diarrhea along with recent chemo  
 
Social History:
___
Family History:
NC
 
Physical Exam:
Vitals - T: 99.1 BP: 140/70 HR: 67 RR: 18 02 sat: 100% on RA, 
67in 190lbs  
GEN: AAOx3. ___, alert and interactive, seated in chair, 
NAD.  
Medium frequency essential tremor most prominent in bilateral  
hands and jaw.  
HEENT: PERRL, EOMI. CN II-XII grossly intact bilaterally.  
Oropharynx moist without lesions or exudate. No JVD. Bilateral  
exophthalmos.  
HEART: RRR, nl S1, S2, no murmurs, rubs or gallops  
LUNGS: CTAB no wheeze, rales or rhonchi  
ABD: NABS. Tympanitic, moderate distention with air. Midline  
ventral hernia. Soft, non-tender, no masses or HSM appreciable  
EXT: 1+ edema of ankles. 2+ DP pulses bilaterally. No cyanosis  
SKIN: Vesicular, erythematous lesions in T7/8 dermatome on right 
side with no crossing of the midline.  

 
Pertinent Results:
___ 03:20PM   GLUCOSE-48* UREA N-8 SODIUM-136 POTASSIUM-4.4 
CHLORIDE-100 TOTAL CO2-28 ANION GAP-12
___ 03:20PM   ALK PHOS-97
___ 03:20PM   CALCIUM-9.2 PHOSPHATE-2.5* MAGNESIUM-2.0
___ 12:00PM   GLUCOSE-120* UREA N-8 CREAT-1.2 SODIUM-136 
POTASSIUM-5.2* CHLORIDE-100 TOTAL CO2-26 ANION GAP-15

___ 12:00PM   ALT(SGPT)-30 AST(SGOT)-33 LD(LDH)-345* ALK 
PHOS-101 TOT BILI-0.5
___ 12:00PM   ALBUMIN-3.7 CALCIUM-9.3 PHOSPHATE-2.6* 
MAGNESIUM-2.1 URIC ACID-5.0
___ 12:00PM   NEUTS-70.8* ___ MONOS-6.2 EOS-1.5 
BASOS-0.4
___ 12:00PM   ___ ___
___ 12:00PM   ___ ___

IMPRESSION: 
  
1. Redemonstration of the T11 vertebral lesion, with horizontal 
fluid filled cleft related to the fracture. No obvious epidural 
component within the limitations of the study, due to motion 
artifacts. No abnormal enhancement in the spinal cord or in the 
roots of the cauda equina. 
  
2. Degenerative changes in the cervical spine, most prominent at 
C5-6, 
causing moderate canal stenosis, effacement of the ventral and 
the posterior thecal space and mild indentation on the surface 
of the cord. 
  
3. Heterogeneous bone marrow signal intensity likely related to 
multiple 
myeloma. 
  
4. Slightly increased signal intensity of C3, of uncertain 
significance, 
attention can be paid to this on followup study. 

 
Brief Hospital Course:
___ year old man with history of multiple myeloma admitted for 
management of herpes zoster with acyclovir, later found to have 
a T11 fracture s/p vertebroplasty, was able to walk with a 
walker and assistance on discharge to rehab.  Has an outpatient 
appointment set up with Dr. ___ 2 weeks after discharge.  
  
# Zoster: At the time of initial evaluation the patient had 
zoster that was limited to one dermatome and does not cross the 
midline, so is not disseminated zoster. Given pt's fragile 
immune status (in the setting of recent chemotherapy) pt was 
being admitted for monitoring of herpetic eruption.  Pt. was 
treated with acyclovir IV with crusting and healing of the rash.
  
# Multiple myeloma: The pt was due to start cylce 2 
Velcade/dexamethasone on ___, but appointment was 
rescheduled secondary to recent admission for diarrhea and fall. 
 Pt. was found to have a T11 fracture with infiltration on MRI.  
Received a T11 vertebroplasty, was able to walk with a walker 
and control pain with a fentanyl patch on discharge.  Continued 
propranolol for tremors, decreased on discharge.  

# Constipation:  Pt. was on multiple narcotics for back pain 
prior to vertebroplasty and subsequently did not have a bowel 
movement for 12 days, was made NPO, GI was consulted and 
mentioned possible ileus with bed rest and PPN.  Placed on PPN, 
was passing gas, placed on laxatives and enemas and subsequently 
had a bowel movement 3 days prior to discharge.  Was placed on a 
regular diet prior to discharge.
  
# Diabetes Type 2:  Was controlled on ISS, switched to metformin 
and glipizide on discharge.
 
# Hypertension:  Continued moexipril 
  
# Hypercholesterolemia:  Continued atorvastatin  

 
Medications on Admission:
Lidocaine 5% Patch 1 PTCH TD 12 HOURS ON, 12 HOURS OFF  
Moexipril 15 mg PO BID  
Acyclovir 800 mg IV Q12H  
OxycoDONE (Immediate Release) ___ mg PO Q4H:PRN pain  
Atorvastatin 10 mg PO DAILY  
Propranolol LA 240 mg PO DAILY  
Metformin 1000 bid  
Glipizide 20 bid  
Levothyroxine 112 mcg daily  
cyclobenzaprine 5mg tid prn  

 
Discharge Medications:
1. Metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a day. 
 
2. Glipizide 10 mg Tablet Sig: Two (2) Tablet PO twice a day.  
3. Moexipril 15 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
5. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical 12 HOURS ON, 12 HOURS 
OFF ().  
6. Levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Clotrimazole 10 mg Troche Sig: One (1) Troche Mucous membrane 
QID (4 times a day) as needed.  
8. Propranolol 120 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO DAILY (Daily).  
9. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.  
10. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q6H (every 6 hours) as needed for back pain.  
11. Acyclovir 200 mg Capsule Sig: Two (2) Capsule PO Q8H (every 
8 hours).  
12. Senna 8.6 mg Tablet Sig: ___ Tablets PO BID (2 times a day). 
 
13. Camphor-Menthol 0.5-0.5 % Lotion Sig: One (1) Appl Topical 
QID (4 times a day) as needed.  
14. Fentanyl 50 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
15. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary
Multiple Myeloma
Herpes Zoster Infection
T11 vertebral fracture s/p vertebroplasty

Secondary
Constipation
Hypertension

 
Discharge Condition:
Stable, ambulating well with walker, eating, drinking, and 
voiding without complaints

 
Discharge Instructions:
You were admitted for a herpes zoster infection of the skin of 
your right breast.  Upon arrival, you were given a medication 
called acyclovir, which helped treat this infection.  However, 
during your stay, your existing back pain became worse and an 
MRI was obtained of your spine which demonstrated a fracture of 
one of your vertebra with possibly extension of cancer.  As a 
result, you underwent a vertebroplasty.  You tolerated this 
procedure well, and upon discharge, you were able to walk well 
with a walker and some assistance.

We have started you on some new medications:
START Fentanyl patch 50mcg/hr please change every 72 hours
START Acyclovir 400mg every 8 hours

If you have any sudden loss of urinary control, loss of bowel 
control, nausea, vomiting, chest pain, diarrhea, severe 
constipation, lightheadedness, dizziness, or loss of 
sensation/function in your lower extremities, please contact 
your primary care provider, or primary oncologist immediately.
 
Followup Instructions:
___